US07037908B2
N-(4fluorobenzyl)-2-(2,6-dimethoxyphenyl)-5-hydroxy-1-methyl-6-oxo-1,6-dihydropyrimidine-4-carboxamide.
Prepared according to the procedure described for example 2 from 2-(2,6-dimethoxy-phenyl)-5-hydroxy-1-methyl-6-oxo-1,6-dihydro-pyrimidine-4-carboxylic acid ethyl ester (50 mg, 0.15 mmol) and 4-fluorobenzylamine (125 mg, 1.0 mmol). The title product was obtained as a pink solid (48.7 mg, 79% yield). 1HNMR (500 MHz, CDCl3) δ: 12.10 (1H, s), 7.92 (1H, t, J=5.50 Hz), 7.39 (1H, t, J=8.54 Hz), 7.30 (1H, d, J=5.19 Hz), 7.28 (1H, d, J=5.19 Hz), 7.00 (2H, t, J=8.54 Hz), 6.62 (2H, d, J=8.24 Hz), 4.52 (2H, d, J=6.40 Hz), +3.75 (6H, s), 3.28 (3H, s). HRMS (ESI) calcd for C21H21FN3O5 (M+H): 414.1465; found: 414.1454.

reactant | 2-(2,6-dimethoxy-phenyl)-5-hydroxy-1-methyl-6-oxo-1,6-dihydro-pyrimidine-4-carboxylic acid ethyl ester | 0.15 mmol, 50 mg | C(C)OC(=O)C=1N=C(N(C(C1O)=O)C)C1=C(C=CC=C1OC)OC | C16H18N2O6
reactant | 4-fluorobenzylamine | 1.0 mmol, 125 mg | FC1=CC=C(CN)C=C1 | C7H8FN
product | N-(4fluorobenzyl)-2-(2,6-dimethoxyphenyl)-5-hydroxy-1-methyl-6-oxo-1,6-dihydropyrimidine-4-carboxamide | FC1=CC=C(CNC(=O)C=2N=C(N(C(C2O)=O)C)C2=C(C=CC=C2OC)OC)C=C1 | C21H20FN3O5
